US07786132B2
A suspension of methyl 5-nitrobenzo[b]thiophene-2-carboxylate (32.49 g, 0.137) in methanol (400 mL) and 1 N aqueous sodium hydroxide (150 mL) was heated to reflux for 1 h after which time everything had gone into solution. After cooling to r.t. the solution was acidified with concentrated hydrochloric acid. The resulting solid was filtered off, washed with water (3×50 mL), air dried, and then placed in a vacuum oven at 60° C. for 20 h to yield 5-nitrobenzo[b]thiophene-2-carboxylic acid (29.87 g, 98%) as a cream amorphous solid. 1H NMR δ (d6-DMSO, 400 MHz) 8.30 (dd, J=9, 2 Hz, 1H), 8.35 (d, J=9 Hz, 1H), 8.36 (s, 1H), 8.98 (s, 1H), 13.89 (br. s., 1H).

reactant | methyl 5-nitrobenzo[b]thiophene-2-carboxylate | 32.49 g | [N+](=O)([O-])C1=CC2=C(SC(=C2)C(=O)OC)C=C1 | C10H7NO4S
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 400 mL | CO | CH4O
solvent | sodium hydroxide | 1 N, 150 mL | [OH-].[Na+]
product | 5-nitrobenzo[b]thiophene-2-carboxylic acid | 29.87 g, 98% | [N+](=O)([O-])C1=CC2=C(SC(=C2)C(=O)O)C=C1 | C9H5NO4S
